US08003654B2
2) Synthesis of (3-amino-4-chloro-phenyl)-methanol
To a solution of (4-chloro-3-nitro-phenyl)-methanol (4.96 g, 26.4 mmol) in MeOH (60 mL) and conc HCl (22 ml) was added iron powder (4.43 g, 3 eq) in portions. The mixture was then heated at reflux (65° C.) for 6 h, cooled and poured on ice water. The solution was neutralised with dilute NaOH and filtered. The filtrate was extracted with EA several times. The combined organic layers were washed with brine, dried over MgSO4 and concentrated. The product was recovered as a greyish solid (3.8 g, 92%).

reactant | (4-chloro-3-nitro-phenyl)-methanol | 26.4 mmol, 4.96 g | ClC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C7H6ClNO3
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | HCl | 22 ml | Cl | ClH
catalyst | iron | 4.43 g, 3 eq | [Fe] | Fe
product | (3-amino-4-chloro-phenyl)-methanol | NC=1C=C(C=CC1Cl)CO | C7H8ClNO
